US08703793B2
4-Cyclopentyl-7,7-dimethyl-2,5-dioxo-1,2,5,6,7,8-hexahydro-quinoline-3-carbonitrile
11.0 g 4-Cyclopentyl-7,7-dimethyl-2,5-dioxo-1,2,3,4,5,6,7,8-octahydro-quinoline-3-carbonitrile are suspended in 160 ml acetonitrile, heated to 60° C. and mixed dropwise with a solution of 85 g ammonium cer-(IV)-nitrate in 80 ml water. After heating for 1 h the mixture is diluted with 1200 ml dichloromethane and vigorously stirred. The aqueous bottom phase is discarded and the organic phase is washed successively with saturated sodium bicarbonate and brine. After drying with magnesium sulphate the solvents are evaporated in vacuo and the residue is triturated with diethylether. The solid is isolated by filtration, washed with diethylether and dried in vacuo.

reactant | 4-Cyclopentyl-7,7-dimethyl-2,5-dioxo-1,2,3,4,5,6,7,8-octahydro-quinoline-3-carbonitrile | 11.0 g | C1(CCCC1)C1C(C(NC=2CC(CC(C12)=O)(C)C)=O)C#N | C17H22N2O2
solvent | acetonitrile | 160 ml | C(C)#N | C2H3N
solvent | water | 80 ml | O | H2O
solvent | dichloromethane | 1200 ml | ClCCl | CH2Cl2
product | 4-Cyclopentyl-7,7-dimethyl-2,5-dioxo-1,2,5,6,7,8-hexahydro-quinoline-3-carbonitrile | C1(CCCC1)C1=C(C(NC=2CC(CC(C12)=O)(C)C)=O)C#N | C17H20N2O2
